US06420375B1
(iii) Preparation of (E)-1-chloro-3-(2-naphthyl)-2-butene
Thionyl chloride (5.0 ml) was added to a solution of (E)-3-(2-naphthyl)-2-buten-1-ol (4.59 g) in CH2Cl2 (30 ml)at 0° C. and the mixture was refluxed for 4 hours. The mixture was washed with water, saturated NaHCO3 solution and brine, dried and concentrated. The residue was washed with hexane to give the titled compound (1.22 g) as a white solid.

reactant | Thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (E)-3-(2-naphthyl)-2-buten-1-ol | 4.59 g | C1=C(C=CC2=CC=CC=C12)/C(=C/CO)/C | C14H14O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | (E)-1-chloro-3-(2-naphthyl)-2-butene | 1.22 g | ClC\C=C(/C)\C1=CC2=CC=CC=C2C=C1 | C14H13Cl
